US07553846B2
To a suspension of 2-amino-3-hydroxybenzoic acid hydrobromide (300 mg, 1.28 mmol) in dichloromethane (8 mL) was added cyclopentane carbonyl chloride (0.16 mL, 1.28 mmol). The resulting reaction mixture was stirred at room temperature for 10 min, then triethylamine (0.71 mL, 5.13 mmol) was added and the reaction mixture was stirred at room temperature overnight. The reaction was diluted in dichloromethane (30 mL) and quenched with aqueous 2 N HCl (10 mL) until the solution reached pH 1. The aqueous layer was further extracted with dichloromethane (2×30 mL). The organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated to an orange solid. The amide product was directly re-dissolved in toluene (8 mL) and the solution was treated with p-toluenesulfonic acid monohydrate (296 mg, 1.56 mmol). The reaction mixture was then heated to reflux for 3 h. The reaction was cooled to room temperature and the toluene was evaporated. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was separated, washed with water, brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel, 9:1 to 3:1 ethyl acetate/methanol) to afford 2-cyclopentylbenzoxazole-4-carboxylic acid (179 mg, 75%) as a pale orange solid: 1H NMR (500 MHz, DMSO-d6) δ 7.85-7.72 (m, 2H), 7.39-7.29 (m, 1H), 2.05-1.50 (m, 9H); MS (ESI+) m/z 232 (M+H).

reactant | 2-amino-3-hydroxybenzoic acid hydrobromide | 1.28 mmol, 300 mg | Br.NC1=C(C(=O)O)C=CC=C1O
reactant | cyclopentane carbonyl chloride | 1.28 mmol, 0.16 mL | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | triethylamine | 5.13 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid monohydrate | 1.56 mmol, 296 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-cyclopentylbenzoxazole-4-carboxylic acid | 179 mg, 75% | C1(CCCC1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C13H13NO3
